US06066658
A mixture of ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate (2.60 g), thiobenzamide (2.14 g) and ethanol (60 ml) was refluxed under heating for 5 hours, after which it was diluted with ethyl acetate-tetrahydrofuran (3:1, v/v, 400 ml), washed with water and dried (MgSO4), after which the solvent was distilled off to yield ethyl 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylate (1.67 g, 57.6%), which was then recrystallized from ethyl acetate-hexane. Colorless needles. Melting point 170-171° C.

reactant | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate | 2.60 g | BrC1C(C=2C(=C(OC2SC)C(=O)OCC)CC1)=O | C12H13BrO4S
reactant | thiobenzamide | 2.14 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethyl acetate tetrahydrofuran | 400 ml | C(C)(=O)OCC.O1CCCC1
product | ethyl 4,5-dihydro-8-methylthio-2-phenylfuro[3,4-e]benzothiazole-6-carboxylate | 1.67 g, 57.6% | CSC=1OC(=C2CCC3=C(N=C(S3)C3=CC=CC=C3)C21)C(=O)OCC | C19H17NO3S2
